US08471040B2
To (S)-3-Vinyl-pyrrolidine-1-carboxylic acid t-butyl ester (50 g, 253.4 mmol, 1.0 eq.) was added 3-pyridinecarbonitrile (2.7 g, 25.3 mmol, 0.1 eq.) and methyltrioxorhenium (VII) (1.3 g, 5.1 mmol, 0.02 eq.). The mixture was stirred until homogeneous. 30% Hydrogen peroxide (11.2 g, 329.5 mmol, 1.3 eq.) was added, and the mixture was maintained below 35° C. The mixture was then extracted with EtOAc, washed with water, dried over Na2SO4, and purified by column chromatography (hexanes:EtOAc=1:3, 3 L) to give (R)-3-Oxiranylpyrrolidine-1-carboxylic acid t-butyl ester (35 g).

reactant | (S)-3-Vinyl-pyrrolidine-1-carboxylic acid t-butyl ester | 253.4 mmol, 50 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)C=C | C11H19NO2
reactant | 3-pyridinecarbonitrile | 25.3 mmol, 2.7 g, 0.1 eq. | N1=CC(=CC=C1)C#N | C6H4N2
reactant | Hydrogen peroxide | 329.5 mmol, 11.2 g, 1.3 eq. | OO | H2O2
catalyst | methyltrioxorhenium (VII) | 5.1 mmol, 1.3 g, 0.02 eq. | C[Re](=O)(=O)=O
product | (R)-3-Oxiranylpyrrolidine-1-carboxylic acid t-butyl ester | 35 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)C1OC1 | C11H19NO3
